US05047582
Hydrolysis and Oxidation of 3-Methyltetrahydrophthalic Anhydride
The Diels-Alder adduct from phthalic anhydride and piperylene is hydrolyzed and partially oxidized as in Example 1 and further oxidized as in Examples 1 and 2. Similar results are obtained.

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | piperylene | C=CC=CC | C5H8
product | 3-Methyltetrahydrophthalic Anhydride | CC1C2C(C(=O)OC2=O)C=CC1 | C9H10O3
